US09382188B2
F) 5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-ol
Under a nitrogen atmosphere, to a solution of 3-(2-fluoro-5-methoxyphenyl)-6-methoxy-2-neopentylpyridine (3.97 g) in DMF (10 mL) was added pyridinium chloride (7.56 g) at room temperature, and the mixture was stirred at 130° C. for 30 min. To the reaction mixture was added 1N hydrochloric acid at 0° C., and the resulting white precipitate was collected by filtration. The crude crystals were washed with water and hexane to give the title compound (3.64 g) as a white amorphous solid.

reactant | 3-(2-fluoro-5-methoxyphenyl)-6-methoxy-2-neopentylpyridine | 3.97 g | FC1=C(C=C(C=C1)OC)C=1C(=NC(=CC1)OC)CC(C)(C)C | C18H22FNO2
reactant | pyridinium chloride | 7.56 g | [Cl-].[NH+]1=CC=CC=C1
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-ol | 3.64 g | FC1=C(C=C(C=C1)OC)C=1C=CC(=NC1CC(C)(C)C)O | C17H20FNO2
